US07700589B2
[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-2-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-butan-1,4-dione
Prepared analogously to Example 76e) from 4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-2-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-butanoic acid and 1-methyl-4-piperidin-4-yl-piperazine.

reactant | 4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-2-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-butanoic acid | O=C(CC(C(=O)O)CC1=CC=2CCCCC2C=C1)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C28H33N3O4
reactant | 1-methyl-4-piperidin-4-yl-piperazine | CN1CCN(CC1)C1CCNCC1 | C10H21N3
product | [4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-2-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-butan-1,4-dione | CN1CCN(CC1)C1CCN(CC1)C(C(CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)CC1=CC=2CCCCC2C=C1)=O | C38H52N6O3
